Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Back pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ with a history of HTN, HLD, and aortic
valve endocarditis c/b multiple embolizations (resulting in R 
eye
blindness) s/p mechanical aortic valve (___) on aspirin and
warfarin who presents from ___ with R renal infarct. He
initially presented to ___ with severe back pain associated
with nausea and vomiting. A CTA revealed R renal infarct. He was
supposed to be transferred to ___ for further management but 
he
left AMA so that he could drive himself. On arrival to ___, 
his
pain had subsided. He was started on a heparin gtt (of note, had
a subtherapeutic INR). Cardiology, nephrology, and vascular were
consulted in the ED with ultimate plan to repeat CTA which was
consistent with prior. 
 
Past Medical History:
- HTN
- HLD
- History of endocarditis of the aortic valve causing multiple
embolizations, ultimately resulting in a mechanical AVR in ___.
- Heart palpitations, found to have VPBs on Holter monitor.
 
Social History:
___
Family History:
Unknown, patient is adopted.
 
Physical Exam:
ADMISSION EXAM:
VS: 98.8 155/81 60 18 96 RA   
GENERAL: NAD  
HEENT: AT/NC, R eye closed, anicteric L sclera, MMM    
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no CVA tenderness
EXTREMITIES: no cyanosis, clubbing, or edema    
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no rashes 

DISCHARGE EXAM:
VS: T 98.5 BP 128/90 HR 53 RR 18 O2 96% RA 
GENERAL: Well-nourished, well-appearing gentleman, resting
comfortably in bed in NAD 
HEENT: AT/NC, R eye closed, anicteric L sclera, patent ear
canals, ___ clear without erythema or exudate, MMM    
HEART: RRR, normal S1, prominent/mechanical S2, no murmurs,
gallops, or rubs   
LUNGS: CTAB, no wheezes/rhonci, breathing comfortably without 
use
of accessory muscles  
ABDOMEN: Soft, non-distended, non-tender in all quadrants, no
rebound/guarding, no CVA tenderness
EXTREMITIES: No cyanosis, clubbing, or edema    
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: Warm and well perfused, no rashes 
 
 
Pertinent Results:
ADMISSION LABS:
___ 12:49PM   PTT-51.8*
___ 07:40AM   GLUCOSE-104* UREA N-8 CREAT-0.7 SODIUM-143 
POTASSIUM-3.7 CHLORIDE-105 TOTAL CO2-25 ANION GAP-13
___ 07:40AM   ALT(SGPT)-52* AST(SGOT)-41* LD(LDH)-495* ALK 
PHOS-110 TOT BILI-0.8
___ 07:40AM   ALBUMIN-4.3 CALCIUM-9.3 PHOSPHATE-2.8 
MAGNESIUM-1.8
___ 07:40AM   WBC-14.7* RBC-5.26 HGB-15.8 HCT-46.2 MCV-88 
MCH-30.0 MCHC-34.2 RDW-12.7 RDWSD-40.4
___ 07:40AM   PLT COUNT-133*
___ 07:40AM   ___ PTT-54.4* ___
___ 10:13PM   LACTATE-1.2
___ 10:00PM   GLUCOSE-94 UREA N-7 CREAT-0.7 SODIUM-141 
POTASSIUM-3.8 CHLORIDE-102 TOTAL CO2-24 ANION GAP-15
___ 10:00PM   estGFR-Using this
___ 10:00PM URINE  HOURS-RANDOM
___ 10:00PM URINE  UHOLD-HOLD
___ 10:00PM   WBC-17.2*# RBC-4.98 HGB-14.9 HCT-43.1 MCV-87 
MCH-29.9 MCHC-34.6 RDW-12.7 RDWSD-39.8
___ 10:00PM   NEUTS-65.9 ___ MONOS-10.5 EOS-0.1* 
BASOS-0.4 IM ___ AbsNeut-11.34*# AbsLymp-3.93* 
AbsMono-1.81* AbsEos-0.02* AbsBaso-0.07
___ 10:00PM   PLT COUNT-129*
___ 10:00PM   ___ PTT-31.9 ___
___ 10:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG

DISCHARGE LABS:
___ 07:50AM BLOOD WBC-10.7* RBC-5.22 Hgb-15.3 Hct-46.1 
MCV-88 MCH-29.3 MCHC-33.2 RDW-12.6 RDWSD-40.4 Plt ___
___ 07:30AM BLOOD ___
___ 07:50AM BLOOD Glucose-90 UreaN-15 Creat-0.8 Na-142 
K-3.8 Cl-104 HCO3-24 AnGap-14

MICROBIOLOGY:
___ Blood cx: pending
___ Urine cx: Negative

IMAGING/DIAGNOSTICS
___ CTA ABD AND PELVIS:
IMPRESSION: 
1. Stable appearance of wedge shaped hypodensity in the 
interpolar region of the right kidney concerning for renal 
infarct. 
2. Patent abdominal vasculature without evidence of thrombus 
within the right renal artery.

___ ECHO
IMPRESSION: No definite valvular vegetations or pathologic 
valvular flow identified. Mild symmetric left ventricular 
hypertrophy with normal cavity size, and regional/global 
systolic function. Normal right ventricular cavity size and 
systolic function. Well seated bileaflet AVR with normal leaflet 
motion and higher than expected gradients. Mild central aortic 
regurgitation. 

If clinically suggested, the absence of a vegetation by 2D 
echocardiography does not exclude endocarditis. If clinically 
warranted, a transesophageal echocardiogram is recommended.

Compared with the prior study (images reviewed) of ___, 
there has been an increase in the transvalvular gradients. Other 
findings appear similar.  
 
Brief Hospital Course:
___ with a history of hypertension, hyperlipidemia, and aortic 
valve endocarditis complicated by multiple embolizations 
(resulting in R eye blindness), status post mechanical aortic 
valve (___) on aspirin and warfarin who presents from ___ 
___ with subtherapeutic INR and R renal infarct, now on 
heparin drip. 

ACTIVE ISSUES:
==============
# R renal infarct:
Patient presented with acute back pain and was found to have R 
renal infarct on CTA. Reportedly has intermittent compliance 
with Coumadin and difficulty getting INR checks regularly. 
Presented with subtherapeutic INR which likely led to aortic 
valve thrombus and R renal infarct. Patient was started on a 
heparin drip and was treated with warfarin 10mg. He had a 
transthoracic echo on ___ which was negative for vegetations 
or thrombus, normal mechanical leaflet motion, and showed a 
normal ejection fracition but higher than expected gradients in 
the setting of hyperdynamic LV. He was continued on his home 
aspirin. On ___, INR was 2.4. Patient was switched back to his 
home dose of warfarin 7mg. 

CHRONIC/STABLE ISSUES:
======================
# Mechanical AVR: 
Patient was treated with a heparin drip (see above) and warfarin 
10mg. He should continue taking his home dose of warfarin (7mg) 
when he goes home. 

# HTN:
Continued home amlodipine

# HLD:
Continued home rosuvastatin

TRANSITIONAL ISSUES:
====================
[ ] Patient should have his INR checked at ___ Lab on 
___. The results should be sent to his PCP. His goal INR 
should be 2.5-3.5 given his clotting history. 
[ ] Patient had TTE which showed well seated bileaflet AVR with 
normal leaflet motion and higher than expected gradients. He 
should have a repeat-TTE in ___ months to re-assess the 
gradients.

Discharge time 25 min
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Rosuvastatin Calcium 20 mg PO QPM 
3. Warfarin 7 mg PO DAILY16 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  amLODIPine 10 mg PO DAILY  
3.  Rosuvastatin Calcium 20 mg PO QPM  
4.  Warfarin 7 mg PO DAILY16  
5.Outpatient Lab Work
INR, ICD code: ___.2
Please send results to: ___, Fax: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
- Renal infarct 
- Aortic valve endocarditis s/p mechanical aortic valve 
replacement 

SECONDARY DIAGNOSIS
- HTN
- HLD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

WHY WERE YOU ADMITTED?
- You were admitted because you were having back pain and 
imaging showed you had a clot in your renal artery. 

WHAT WAS DONE FOR YOU IN THE HOSPITAL?
- You were started on a medicine called heparin, which was given 
to your through your vein to help thin out your blood.
- You had an ultrasound of your heart which showed that there 
were no bacterial clots on your heart valves! This is a good 
thing! 

WHAT SHOULD YOU DO WHEN YOU LEAVE?
- You should follow up with your primary care doctor
- You should continue taking your medications as prescribed. 
Specifically, you should take your Coumadin every day and have 
your INR monitored regularly to ensure your blood is 
appropriately thinned out. This will help prevent further clots 
from developing. 
- Your primary care doctor ___ write you a standing order to 
have your blood drawn at ___, and she can follow your INR 
through the PatientPortal. 

It was a pleasure taking care of you.

Sincerely,
Your ___ Team
 
Followup Instructions:
___